### PR TITLE
Initial categorization

### PR DESCRIPTION
**Pull request by isovector**
This PR adds `Categories` with category machinery. It also moves our `Isomorphisms` into `Old.Isomorphisms` and then defines a `Category`-indexed `Isomorphism` in its place. Plus some `Category`s for `SET` and `PERM`.

### CODE REVIEW

File: src/Isomorphisms.agda [hunk 1]
```diff
@@ -1,570 +1,49 @@
-module Isomorphisms where
+{-# OPTIONS --allow-unsolved-metas #-}
+
+open import Categories
+
+module Isomorphisms (C : Category) where
```
Comment (isovector) [inline src/Isomorphisms.agda:3]: Notice that the whole module is indexed by a category, which is the category we are defining isomorphisms in.

File: src/Old/Isomorphisms.agda [hunk 2]
```diff
@@ -0,0 +1,570 @@
+module Old.Isomorphisms where
```
Comment (isovector) [inline src/Old/Isomorphisms.agda:1]: Just moved this file, but github is stupid.

**Comment by isovector** [comment]
@totbwf hi! mind doing a review?

File: src/Category/PERM.agda [hunk 3]
```diff
@@ -0,0 +1,65 @@
+{-# OPTIONS --type-in-type #-}
+
+module Category.PERM where
```
Comment (TOTBWF) [inline src/Category/PERM.agda:3]: I realized this after we talked, but we could generalize this to work on any arbitrary category (Instead of considering only automorphisms in set, we can consider automorphisms anywhere). Food for thought!

File: src/Category/PERM.agda [hunk 4]
```diff
@@ -0,0 +1,65 @@
...
+Obj     PERM = PermObj
+_~>_    PERM = PermArrow
+_≈_     PERM f g = forall a → permMap f a ≡ permMap g a
+IsEquivalence.refl  (≈-equiv PERM) _     = refl
+IsEquivalence.sym   (≈-equiv PERM) f a   = Eq.sym (f a)
+IsEquivalence.trans (≈-equiv PERM) f g a = Eq.trans (f a) (g a)
+permMap      (id PERM) = id SET
+permArrowLaw (id PERM) a = refl
+permMap      ((PERM ∘ g) f) a = permMap g (permMap f a)
+permArrowLaw (_∘_ PERM {A} {B} {C}
```
Comment (TOTBWF) [inline src/Category/PERM.agda]: We could where/let bind modules for `f` and `g` here, instead of doing this pattern match.

IE
```
  begin
    gmap (f.permMap (perm A a))
  ≡⟨ cong g.permMap (f.permArrowLaw a) ⟩
  ...
  ∎
  where
    module g = PermArrow g
    module f = PermArrow f

File: src/Category/PERM.agda [hunk 5]
```diff
@@ -0,0 +1,65 @@
...
+import Isomorphisms
+open Isomorphisms.Isomorphism
+open import Category.SET
+
+open import Isomorphisms SET
+
+
+record PermObj : Set where
+  field
+    permCarrier : Set
```
Comment (TOTBWF) [inline src/Category/PERM.agda]: As a stylistic note: we have records that work in Agda, so prefixing the fields of a record with the name of the record isn't required.

File: src/SectionsAndRetractions.agda [hunk 6]
```diff
@@ -0,0 +1,24 @@
...
+
+module SectionsAndRetractions (C : Category) where
+
+open Category C
+
+record Determination {X Y Z : Obj} (h : X ~> Z) (f : X ~> Y) : Set where
+  constructor determines
+  field
+    r : Y ~> Z
+    determinationProof : r ∘ f ≈ h
```
Comment (TOTBWF) [inline src/SectionsAndRetractions.agda]: I would call these simply `commute` or `determines`, suffixing with `proof` is somewhat redundant!

File: src/Category/PERM.agda [hunk 7]
```diff
@@ -0,0 +1,65 @@
...
+      : (a : permCarrier A)
+      → permMap (forward (permAuto A) a) ≡ forward (permAuto B) (permMap a)
+
+open PermArrow
+
+
+PERM : Category
+Obj     PERM = PermObj
+_~>_    PERM = PermArrow
+_≈_     PERM f g = forall a → permMap f a ≡ permMap g a
```
Comment (TOTBWF) [inline src/Category/PERM.agda]: I poked around for a bit in the stdlib for a good isEquivalence proof of this, but the situation right now for functions + setoids is an absolute disaster :(

File: src/Category/PERM.agda [hunk 8]
```diff
@@ -0,0 +1,65 @@
+{-# OPTIONS --type-in-type #-}
+
+module Category.PERM where
+
+open import Categories
+open Category
```
Comment (TOTBWF) [inline src/Category/PERM.agda]: I tend to do all my `open` of nested modules/records _after_ all the imports.

**Review by TOTBWF — APPROVED** [review]
Looks good! Only a handful of stylistic nits

File: src/Category/PERM.agda (hunk 3 above)
Comment (isovector) [reply src/Category/PERM.agda:3]: I thought of that too! But it's for another day

File: src/Category/PERM.agda (hunk 4 above)
Comment (isovector) [reply src/Category/PERM.agda]: Unfortunately those unpacked bindings don't show up in the context then --- makes it hard to keep everything paged in! How do you deal with this?

Comment (TOTBWF) [reply src/Category/PERM.agda]: Mostly by just remembering what's in scope + playing around with holes. Perhaps it's time to bug the agda devs about this?

Comment (isovector) [reply src/Category/PERM.agda]: https://github.com/agda/agda/issues/888
